US08080552B2
v) 1-{2-Chloro-4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-3-(4-chloro-3-trifluoromethylphenyl)-urea
A mixture of 71 mg (0.145 mmol) 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-[2-chloro-4-(2-methanesulfonyl-pyrimidin-4-yloxy)-phenyl]-urea, 23 mg (0.30 mmol) 3-amino-propan-1-ol and 2 ml THF was stirred at r.t. for 12 h. The reaction mixture was evaporated and the residue purified by chromatography on silica (dichloromethane/ethanol 96:4). Yield 21 mg (28%) of the title compound.

reactant | 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-[2-chloro-4-(2-methanesulfonyl-pyrimidin-4-yloxy)-phenyl]-urea | 0.145 mmol, 71 mg | ClC1=C(C=C(C=C1)NC(=O)NC1=C(C=C(C=C1)OC1=NC(=NC=C1)S(=O)(=O)C)Cl)C(F)(F)F | C19H13Cl2F3N4O4S
reactant | 3-amino-propan-1-ol | 0.30 mmol, 23 mg | NCCCO | C3H9NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-{2-Chloro-4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-3-(4-chloro-3-trifluoromethylphenyl)-urea | ClC1=C(C=CC(=C1)OC1=NC(=NC=C1)NCCCO)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C21H18Cl2F3N5O3
